US09340549B2
A mixture of methyl 2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate (prepared as described in WO 2010/016846)(4.22 g, 20.67 mmol) and lithium hydroxide (2.475 g, 103 mmol) in THF (50 mL) and water (50 mL) was heated at 65° C. for 1 hour. The white precipitate was filtered, washed with water, and dried to afford a white solid. The filtrate was concentrated, dissolved in water and neutralized to pH=7 with concentrated HCl to afford a white solid. The white precipitate was filtered, washed with water, and dried. The solids were combined to afford 2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylic acid (3.482 g, 18.31 mmol, 89% yield) as an off-white solid. m/z (ESI) 191.2 (M+H)+.

reactant | methyl 2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylate | 20.67 mmol, 4.22 g | O=C1NC2=CN=CC=C2C=C1C(=O)OC | C10H8N2O3
reactant | lithium hydroxide | 103 mmol, 2.475 g | [OH-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 2-oxo-1,2-dihydro-1,7-naphthyridine-3-carboxylic acid | 18.31 mmol, 3.482 g, 89% yield | O=C1NC2=CN=CC=C2C=C1C(=O)O | C9H6N2O3
